US04722749
N-allyl-N-(2-trifluoromethylphenyl)-2-pyridinesulfonamide 1-oxide
To N-(2-trifluoromethylphenyl)-2-pyridinesulfonamide 1-oxide (compound 129, Table A) (1.0 g, 3.0 mmol) in 10 ml of DMF is added NaH (0.30 g, 6.2 mmol) under N2, and the mixture is stirred at RT for 30 minutes. Allyl bromide (0.82 g, 0.59 ml, 6.8 mmol) is added dropwise, and the mixture is stirred at RT for 48 hours. It is then worked up and purified to give the title compound (compound 37, Table A). (DMF is dimethylformamide; RT is room temperature.)

reactant | N-(2-trifluoromethylphenyl)-2-pyridinesulfonamide 1-oxide | FC(C1=C(C=CC=C1)NS(=O)(=O)C=1[N+](=CC=CC1)[O-])(F)F | C12H9F3N2O3S
reactant | NaH | 6.2 mmol, 0.30 g | [H-].[Na+]
reactant | Allyl bromide | 6.8 mmol, 0.59 ml, 0.82 g | C(C=C)Br | C3H5Br
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | N-allyl-N-(2-trifluoromethylphenyl)-2-pyridinesulfonamide 1-oxide | C(C=C)N(S(=O)(=O)C=1[N+](=CC=CC1)[O-])C1=C(C=CC=C1)C(F)(F)F | C15H13F3N2O3S
